US05264573
Preparation of the 2-chlorohypoxanthine
In a subsequent reaction step the 2-chlorohypoxanthine hydrochloride monohydrate is suspended in an aqueous solution at a pH ranging from 6 to 7 and, preferably, a pH of 6.5, which is adjusted with an aqueous solution of an alkali or alkaline earth metal hydroxide, preferably an alkali metal hydroxide and especially concentrated sodium hydroxide solution. After the suspension is heated to a temperature in the range from 50° C. to 70° C.--preferably 55° C. to 65° C. and more especially to a temperature of 60° C. The resulting solution is, if necessary, treated with decolorising charcoal and filtered. An aqueous solution of an acid is admixed with the solution to adjust the pH to a value in the range from 2 to 4 and, preferably, 3.0. The acid is preferably an inorganic acid and especially hydrochloric acid.

reactant | 2-chlorohypoxanthine hydrochloride monohydrate | O.Cl.ClC=1NC(C=2NC=NC2N1)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | charcoal | C | CH4
product | 2-chlorohypoxanthine | ClC=1NC(C=2NC=NC2N1)=O | C5H3ClN4O
